US04569934
2-Ethyl-6-[3-(trifluoromethyl)phenyl]imidazo[1,2-b]pyridazine
A 2.58 g sample of 3-chloro-6-[3-(trifluoromethyl)phenyl]pyridazine in 3.56 g of 2-amino-1-butanol was heated at 120° C. (internal temperature) for 18 hours, cooled and poured into cold water. The mixture was extracted with dichloromethane and the extracts washed with water, dried over anhydrous sodium sulfate and concentrated. The residue in ethyl acetate was chromatographed on silica gel with ethyl acetate to give 2.2 g of yellow oil. Crystallization from dichloromethane-hexane gave 2-{[6-[3-(trifluoromethyl)phenyl]-3-pyridazinyl]amino}-1-butanol as crystals, mp 84°-87° C.

reactant | 3-chloro-6-[3-(trifluoromethyl)phenyl]pyridazine | ClC=1N=NC(=CC1)C1=CC(=CC=C1)C(F)(F)F | C11H6ClF3N2
reactant | water | O | H2O
solvent | 2-amino-1-butanol | 3.56 g | NC(CO)CC | C4H11NO
product | 2-Ethyl-6-[3-(trifluoromethyl)phenyl]imidazo[1,2-b]pyridazine | 2.2 g | C(C)C=1N=C2N(N=C(C=C2)C2=CC(=CC=C2)C(F)(F)F)C1 | C15H12F3N3
